Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
pain / tingling in all extremities
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mrs. ___ is a ___ y/o RH woman with minimal PMH (h/o migraines) 
who p/w dysesthesias in both arms and both legs. She links the 
pain to recent exertion (carrying heavy boxes 1mo PTA) because 
she says the paresthesias/pain started in her arms (R>L, 
pins-and-needles/shooting sensations) 2d after. This progressed 
___ later into her feet and the backs of her legs, again R>L. 
The pain responded partially to Vicodin, prescribed by her PCP. 
Around this time, she developed motor symptoms as well, 
including occasional unsteady gait, so her PCP (Dr. ___ ordered 
brain and C/T/L-spine MRI. This identified a C5-6 disc 
protrusion (with foraminal impingement on the right side) as 
well as a questionable STIR hyperintensity (likely artifact) 
between C4-7, which was not seen on repeat C-spine MRI during 
this admission. MRI of the brain showed a ___ FLAIR 
hyperintensity on the right which did not appear to be in a 
pattern consistent with MS.

___ the week PTA, she complained of unsteady gait, difficulty 
with fine motor skills with the left hand, as well as perineal 
numbness. No urinary or bowel incontinence or urgency. She never 
experienced anything like this before. Her physician prescribed 
her ___ short 40mg prednisone taper, which she finished 1d PTA, 
and which initially provided partial relief of her symptoms. 
Because of the progression of the symptoms, Dr. ___ 
information about this pt through emails who oriented for her to 
come to ED.

On ROS, she denied fever and any recent illness. Also denied 
visual difficulty, hearing changes, difficulty speaking, 
language problems, memory difficulty, difficulty swallowing, 
vertigo.

The patient denied fever, wt loss, appetite changes, cp, 
palpitations, DOE, sob, cough, wheeze, nausea, vomiting, 
diarrhea, constipation, abd pain, fecal incont, dysuria, 
nocturia, urinary incontinence, muscle or joint pain, hot/cold
intolerance, polyuria, polydipsia, easy bruising, depression, 
anxiety, stress, or psychotic sx.
 
Past Medical History:
1.  Left arm symptoms (per PCP, ___ -- leading up to the 
present admission / Tx course):  Over the last six months, Ms. 
___ reports being under a good deal of stress.  There has been 
some stress associated with one of her daughters.  Work has been 
very busy.  Ms. ___ works as an ___.  She 
was also asked to help with ___ work.  Because of the 
heavy lifting involved, she developed pain of the left arm.  She 
attributed this to tendinitis.  However, with time she noted 
that the sharp pains abated.  However, she notes a neuropathic 
type of discomfort involving the left arm.  It tends to affect 
the palmar
surface of the entire arm.  It also affects the fingertips of 
the
second, third, fourth, and fifth fingers.  It spares the thumb. 
She has noted a sensation of hot and cold.  Exposure to hot and
cold is painful.  She has never noted a rash of the arm.  She
reports feeling achy all over.  She has not had fevers, night
sweats, or weight loss.  She denies headache other than her 
usual
migraines.  She has not had neck pain.  She has not had 
radicular
pains.  She recalls no acute trauma to the neck, shoulder,
axilla, arm, or hand.

2.  Insomnia:  Because of the combination of stress and the
discomfort of the left arm, Ms. ___ has had quite a bit of
difficulty sleeping.  She has difficulty falling asleep and
staying asleep.  For the last several nights, she has not slept
at all.  She has previously used a medication called Zopiclone 
in
___.  She did find this helpful. Recent Rx for Zolpidem 
from PCP, ___, with relief.

3.  Asthma:  Managed with Pulmicort and albuterol PRN.  She is 
currently breathing much more comfortably.  She has not required 
albuterol recently.

4.  Spontaneous pneumothorax:  Ms. ___ had spontaneous
pneumothorax of the left lung in ___.  She was told that she 
had
a bulla of the left lung. No current sequelae.

5.  Migraine headache:  Ms. ___ migraine headaches are 
usually pre-menstrual. They occur ~once every 2 months; 
bifrontal, non-throbbing. A/w significant photo- and 
phono-phobia, nausea and a visual aura. She had been using oral 
contraceptives, to which she attributes prior improvement. Had 
been using tramadol to abort the migraines. No side effects. 
Also on amitryptaline recently, unclear why/when.

6.  Hypercholesterolemia:  On ___, Ms. ___ lipid
profile showed total cholesterol 233, HDL 83, and LDL 134.

7.  Cyst:  Ms. ___ has had what was likely an epidermal
inclusion cyst of the upper sternal area.  In ___, she
traveled to ___ where it was excised.  Pathology was
benign.
 
Social History:
___
Family History:
Mr. ___ is adopted.  She learned that her biological mother had 
breast cancer at age ___.  Her biological grandfather had 
diabetes.

 
Physical Exam:
T-98.3F BP-149/104 HR-88 RR-18 99% O2Sat
(on admission)
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender 
ext: no edema

Mental status:  Alert and oriented to person, place, and date. 
Reading, naming, repetition, and concentration are all normal. 
There is no evidence of left-right confusion, apraxia, or
neglect.

Cranial Nerves:  II-XII are intact.  Pupils are equally round 
and
reactive to light at 3 mm to 2 mm bilaterally.  Retinas show
sharp disc margins bilaterally.  Visual fields are full to
confrontation via moving finger test bilaterally.  Extraocular
movements are full and symmetric bilaterally.  Facial sensation
is currently intact to light touch in the V1 through V3
distributions bilaterally.  She does indicate that there is a
slight decrease to pinprick in her forehead bilaterally as
compared to her cheek and chin.  Her facial strength is full and
symmetric bilaterally.  Palate elevates symmetrically. 
Sternocleidomastoids are full bilaterally, and tongue is midline
and able to move left and right.

Motor:  There is normal bulk and tone throughout.  Strength is
___ in the upper and lower extremities bilaterally with the
exception of the finger extensors in the left hand which are 
just
breakable about ___.

Sensation:  There is intact sensation to light touch throughout;
however, light touch throughout the majority of her extremities
does induce some of these painful dysesthesias.  She reports 
that
pinprick is sharp throughout all of her extremities as well as
throughout her abdomen and back bilaterally.  The temperature
sensation she reports that both her left upper extremity and
lower extremity have decreased sensation to cold as compared to
the right.  Additionally in her left lower extremity, there is
decreased vibratory sensation as compared to the right.  There 
is
intact proprioception throughout.

Reflexes:  2+ and symmetric at the biceps, triceps,
brachioradialis, and patellae bilaterally.  Reflexes are absent
at the Achilles bilaterally.  Babinski testing was deferred in
light of her dysesthesias.

Coordination:  There is normal finger-nose-finger, finger tap,
fine finger movements, rapid alternating movements, and
heel-knee-shin testing bilaterally.

Gait: Normal, narrow based, and steady. 
 
Pertinent Results:
EMG ___:
The electrophysiologic findings are most consistent with a 
subacute, mild, 
demyelinating polyradiculoneuropathy. While more characteristic 
findings of Guillain ___ Syndrome were not present, the 
conclusions are based upon the finding of multifocal 
abnormalities involving motor, sensory and reflex studies of 
both limbs and cranial nerves. 

(full report:
REFERRING DOCTOR: ___. ___ 
  
  
___ HISTORY: 
  
___ is a ___ woman who presents with a one 
month history of progressive paresthesias. She reports that 
about one month ago she developed a burning and tingling 
sensation in her distal arms and hands. This sensation 
subsequently spread to involve her lower extremities and saddle 
region as well. About one week ago she developed an unusual 
sensation on the left side of her face and today she started 
feeling tingling in her lips. Other complaints include an 
unusual sensation in her bladder when it becomes full (although 
she denies any frank incontinence), involuntary contraction and 
cramping of the finger flexors of her hand, and involuntary 
twitching and movement of the muscles in her limbs/back/and 
buttocks.
  
This study was requested to evaluate for a possible subacute 
inflammatory 
polyradiculoneuropathy (e.g. ___ syndrome or one of 
its variants).

Directed neurological examination showed normal muscle bulk and 
tone. Strength was 4 to 4+/5 in the bilateral finger extensors, 
finger abductors, arm flexors, arm extensors, and toe extensors; 
the remainder of the muscles tested in the upper and lower 
extremities were ___. Sensation was reduced to temperature in 
the distal lower extremities but was intact to vibration 
throughout. Deep tendon reflexes were absent at the bilateral 
patellars and Achilles and reduced at the triceps bilaterally. A 
normal biceps and brachioradialis reflex was obtained 
bilaterally. 
  
FINDINGS: 

Left tibial motor nerve conduction studies were normal, 
including minimum and maximum F wave latencies. 
  
Right deep peroneal motor nerve conduction studies were normal. 
Although 
minimum F wave latencies were normal, the Fmax/Fmin difference 
was markedly increased, with a single F wave of extremely long 
latency.  
  
Left median motor nerve conduction studies were normal; minimum 
F wave 
latencies were mildly prolonged; Fmax/min difference was within 
normal limits. 
  
Left ulnar motor nerve conduction studies showed a mildly 
prolonged distal 
latency as well as moderate focal slowing of conduction velocity 
across the elbow segment; motor response amplitudes were normal; 
minimum and maximum F wave latencies were normal. 
  
There was no evidence of temporal dispersion or increased 
duration or 
conduction blocking in any motor nerve studied. 
  
Left ulnar motor nerve conduction studies, recording FDI, were 
normal. 
  
Left radial motor conduction studies were normal. 
  
Comparative motor recordings of the left median and ulnar 
nerves, recording ___ palmar interossous, revealed 
normal median conduction across the wrist. 
  
Left and right facial motor nerve conduction studies recording 
at the nasalis were normal. 
  
Bilateral sural sensory nerve conduction studies were normal. 
  
Right median sensory nerve conduction studies were normal. 
  
Left median sensory nerve conduction studies showed moderately 
reduced 
amplitude and mildy reduced conduction velocity. 
  
Left ulnar sensory nerve conduction studies demonstrated a 
mildly reduced 
amplitude, moderately prolonged distal latency, and markedly 
reduced 
conduction velocity. 
  
Left superficial radial sensory nerve conduction studies showed 
a mildly 
reduced amplitude and normal conduction velocity. 
  
Left sural sensory nerve conduction studies were normal. 
  
Left median-radial digit 1 comparison study was within normal 
limits. 
  
Blink reflex testing stimulating the left supraorbital nerve 
showed a 
prolonged R1 and ipsilateral R2 response, and a normal 
contralateral R2 
response. 
  
Blink reflex testing stimulating the right supraorbital nerve 
showed a normal R1 response with a prolonged ipsilateral and 
contralateral R2 response. 
  
Concentric needle electromyography (EMG) of selected muscles 
representing the left C5-T1 myotomes demonstrated mildly reduced 
recruitment in most muscles tested, with this pattern being most 
prominent in the triceps. With the exception of minimal 
fasciculations present in the left Abductor pollicis brevis, 
there was otherwise no evidence of ongoing denervation or 
reinnervation (i.e. no spontaneous activity and normal motor 
unit morphology) in any of the muscles studied.
 
Concentric needle electromyography (EMG) of selected muscles 
representing the left L2-S1 myotomes demonstrated mildly reduced 
recruitment in all muscles tested. There was otherwise no 
evidence of ongoing denervation or 
reinnervation (i.e. no spontaneous activity and normal motor 
unit morphology) in any of the muscles studied. 
  
EMG of the paraspinal musculature at the L5 level showed no 
spontaneous 
activity. The Left paraspinal muscle at the C7 level was also 
tested, however this study was limited due to the patient's 
inability to relax. 
))

CXR ___:
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with polyneuropathy vs. polyradiculopathy  
REASON FOR THIS EXAMINATION: 
   Eval for findings c/w sarcoidosis  
FINDINGS: No previous images. The heart is normal in size and 
lungs are 
clear without vascular congestion or pleural effusion. 
Specifically, no 
evidence of hilar or mediastinal lymphadenopathy or interstitial 
prominence to suggest sarcoidosis radiographically. 

C-spine MR ___:
HISTORY: Bilateral arm tingling after heavy lifting. 
COMPARISON: ___. 
FINDINGS:
On the sagittal images, there is no malalignment or loss of 
vertebral body 
height. No suspect marrow lesions are seen. No pathologic 
enhancement is 
seen. The craniovertebral junction is unremarkable. The cord is 
normal in 
signal intensity and morphology. Cervical spondylotic changes 
are stable 
including a broad-based disc osteophyte complex at C5-C6 with 
severe narrowing of the right foramen. The previously suspected 
cord signal abnormality from C4 through C7 is not reproduced and 
was likely artifact on the prior examination. 
IMPRESSION: No acute abnormality. Stable degenerative changes.

**See hospital course for laboratory studies and results.
 
Brief Hospital Course:
___ is a ___ right-handed woman with past 
medical history significant only for asthma and migraines who 
was admitted to our general neurology service after three weeks 
of painful dysesthesia that initially began in her left upper 
extremity along with an area of pruritis over her left face. The 
dysesthetic sensation then spread to her right upper extremity 
and then to her lower extremities bilaterally (distal-->proximal 
in LEs). Overt neurological deficits were minor, but some 
weakness was detected in her left finger extensors and her 
sensory exam was notable for decreased temperature as well as 
vibratory signs in the left lower extremity and decreased 
temperature signs in the left upper extremity. Pinprick 
sensation was normal throughout her extremities, abdomen, and 
back. Reflexes were normal except for absence at the patellae 
bilaterally (a stable finding throughout this admission). Gait 
and coordination were normal throughout this admission, and the 
patient was pleasant, conversational, and interactive / walking 
around the floor frequently with the exception of a few days 
after LP when she was suffering from a positional post-LP HA. 
She occasionally complained of lacking of a normal sensation of 
bladder fullness despite subseqent large-volume urination. No 
urinary frequency or incontinence at any time.

MRI of C-spine was repeated and previously-identified T2 signal 
in C-spine (parenchymal) was no longer seen, thought to be a 
motion artifact on ___ image. C5-6 right-sided foraminal 
disc-encroachment / narrowing was again seen.

LP was performed on the floor ___ with the following results: 
no polys or organisms seen on gram stain. Protein elevated at 79 
and oligoclonal bands were identified (9; uln is 5). 6 WBC-98% 
lymphs / 2 RBC (tube #4).

ESR was normal (5), but CRP was elevated at 18.9 (___). ___ 
was negative, as was sm antibody testing, RF, ANCA, and dsDNA -- 
all normal / negative. C3/C4 complement levels were within 
normal limits (138/26). Serum ACE negative, CXR (w.r.t. possible 
sarcoidosis) was normal. RPR was NR. Lyme serum and CSF antibody 
testing was negative. HIV serum Ab screen was negative. No 
abnormality was identified on SPEP. IgA level was normal (189, 
w.r.t. IVIG pre-planning). TSH 0.73 / fT4 1.2 (wnl both). B12 
was wnl at 444.

Gabapentin was started at 300mg tid and up-titrated to 400mg qid 
with some relief. Her pain control was augmented with Vicodin 
PRN, which was used frequently. Given the peripheral/radicular 
localization of the patient's dysesthetic polyneuropathy and 
mild weakness on exam, and after an EMG found mild abnormalities 
c/w GBS variant, and after no lesions could be identified 
consistent with a demyelinating intra-axial lesion such as MS 
could be identified on MRI, a presumptive diagnosis was made of 
a sensory-predominant GBS variant. Mrs. ___ was then treated 
with IVIG 0.4g/d over five days, with no side effects, but also 
minimal to no improvement of her dysesthesia. Neurologic exam 
was normal (no weakness could be detected) by the time of 
discharge. She was discharged to home with gabapentin and 
Vicodin for pain relief, and instructed to follow up with Dr. 
___ in Neurology clinic in ___.
 
Medications on Admission:
-birth control pill, extended cycle to minimize pre-menstrual 
migraine HAs
-vicodin one and a half tab q6h
-previously Tramadol for migraine HA
-previously Ambien 10mg PRN for insomnia
-previously amitryptaline 25 for pain
-finished prednisone 1d PTA (started by PCP in attempt to 
control dysesthesia)
 
Discharge Medications:
1. Gabapentin 400 mg Capsule Sig: One (1) Capsule PO every four 
(4) hours.
Disp:*180 Capsule(s)* Refills:*1*
2. Hydrocodone-Acetaminophen ___ mg Tablet Sig: Two (2) Tablet 
PO Q4H (every 4 hours) as needed for if pain not resolved with 
tylenol.
Disp:*276 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sensory predominant variant of Guillian ___ Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neurological exam is at baseline save the diffuse sensory 
symptoms

 
Discharge Instructions:
You have been diagnosed with and treated for a sensory viariant 
of ___ Syndrome. You have already experienced some 
improvement in symptoms with IVIg therapy, and we expect this to 
continue. In the interim, continue to manage the pain with 
Gabapentin and Vicodin. Please follow up with Drs. ___ 
___ as listed below. Please return to the ER if you 
experience any intolerable pain, or the development of any new 
weakness, clumsiness, or significant new sensory loss. 
 
Followup Instructions:
___